US07576063B2
5-[4-(N,N-Dimethylamino)phenyl]-1-isopropyl-4-(4-methoxyphenyl)methyl-3H-pyrazole-3-on hydrochloride
To a suspension of sodium borohydride (0.016 g) in tetrahydrofuran (4 mL) was added 3-benzyloxy-5-[4-(N,N-dimethylamino)phenyl]-1-isopropyl-4-(4-methoxybenzoyl)-1H-pyrazole (0.098 g) in tetrahydrofuran (1 mL) at 0° C., and the mixture was stirred for 1 hour. Diluted hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure. The residue was dissolved in methanol (5 mL), and 10% palladium-carbon powder (10 mg) and a hydrochloric acid aqueous solution (2 mol/L, 0.1 mL) were added to the solution. The mixture was stirred at room temperature under a hydrogen atmosphere for 6 hours. The insoluble material was removed by filtration and the solvent of the filtrate was removed under reduced pressure to give the title compound (0.051 g).

reactant | sodium borohydride | 0.016 g | [BH4-].[Na+]
reactant | 3-benzyloxy-5-[4-(N,N-dimethylamino)phenyl]-1-isopropyl-4-(4-methoxybenzoyl)-1H-pyrazole | 0.098 g | C(C1=CC=CC=C1)OC1=NN(C(=C1C(C1=CC=C(C=C1)OC)=O)C1=CC=C(C=C1)N(C)C)C(C)C | C29H31N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 5-[4-(N,N-Dimethylamino)phenyl]-1-isopropyl-4-(4-methoxyphenyl)methyl-3H-pyrazole-3-on hydrochloride | 0.051 g | Cl.CN(C)C1=CC=C(C=C1)C1=C(C(NN1C(C)C)=O)CC1=CC=C(C=C1)OC | InChI=1S/C22H27N3O2.ClH/c1-15(2)25-21(17-8-10-18(11-9-17)24(3)4)20(22(26)23-25)14-16-6-12-19(27-5)13-7-16;/h6-13,15H,14H2,1-5H3,(H,23,26);1H
